US07384970B2
(S)—N-{3-Cyclohexyl-1-[2-(4-methoxy-2,3-dihydro-indol-1-yl)-ethylcarbamoyl]-propyl}-3-methoxy-benzamide.
Following the procedures of Example 3, except using m-anisoyl chloride, (S)-2-amino-4-cyclohexyl-butyric acid, ethanolamine and 4-methoxyindoline as starting materials, the title compound was prepared in 30% yield. The final material was purified by reverse phase preparative HPLC using TFA as a modifier. The final compound is therefore a partial TFA salt and the properties are reported for the material as it appeared after solvent removal: 1H NMR (CDCl3, 400 MHz) δ 0.67-0.80 (m, 2H), 0.92-1.21 (m, 6H), 1.46-1.67 (m, 6H), 1.79-1.92 (m, 1H), 2.88 (dd, 1H, J1=J2=8.1), 3.16-3.21 (m, 2H), 3.41 (dd, 1H, J1=J2=8.1), 3.51-3.43 (m, 2H), 3.71 (s, 3H), 3.73 (s, 3H), 4.44 (dd, 1H, J1=7.1, J2=13.9), 6.27 (d, 1H, J=7.9), 6.33 (d, 1H, J=8.2), 6.84-6.78 (m, 1H), 6.91-6.97 (m, 1H), 6.99 (dd, 1H, J1=J2=8.0), 7.14-7.17 (m, 2H), 7.17-7.27 (m, 3H); HPLC-MS calcd. for C29H39N3O4 (M+H+) 494.3, found 494.5.

reactant | m-anisoyl chloride | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
reactant | (S)-2-amino-4-cyclohexyl-butyric acid | N[C@H](C(=O)O)CCC1CCCCC1 | C10H19NO2
reactant | ethanolamine | C(O)CN | C2H7NO
reactant | 4-methoxyindoline | COC1=C2CCNC2=CC=C1 | C9H11NO
product | (S)—N-{3-Cyclohexyl-1-[2-(4-methoxy-2,3-dihydro-indol-1-yl)-ethylcarbamoyl]-propyl}-3-methoxy-benzamide | 30% yield | C1(CCCCC1)CC[C@@H](C(NCCN1CCC2=C(C=CC=C12)OC)=O)NC(C1=CC(=CC=C1)OC)=O | C29H39N3O4
